US06271406B1
Preparation of 1,2-bis(dichloroethylsilyl)ethane C6H12Si2Cl4
Example 1 was repeated with the modification that, instead of 300.0 g (1.41 mol) of 1,2-bis(chlorodimethylsilyl)ethene, 300.0 g (1.06 mol) of 1,2-bis(dichloroethylsilyl)ethene were used. The results are summarized in Table 1.

reactant | 1,2-bis(chlorodimethylsilyl)ethene | 1.41 mol, 300.0 g | Cl[Si](C=C[Si](C)(C)Cl)(C)C | C6H14Cl2Si2
reactant | 1,2-bis(dichloroethylsilyl)ethene | 1.06 mol, 300.0 g | ClC(C[SiH2]C=C[SiH2]CC(Cl)Cl)Cl | C6H12Cl4Si2
product | 1,2-bis(dichloroethylsilyl)ethane | ClC(C[SiH2]CC[SiH2]CC(Cl)Cl)Cl | C6H14Cl4Si2
